US05922717
a) Benzyl 2-(4-nitrophenoxy)acetate
27.6 g (0.2 mol) of 4-nitrophenol are dissolved in 300 ml of dimethylformamide and, after addition of 27.6 g (0.2 mol) of dried potassium carbonate, the mixture is stirred at room temperature for 45 minutes. Thereafter, 50.4 g (0.22 mol=34.9 ml) of benzyl bromoacetate are added dropwise, while stirring, and the suspension is then heated at 80° C. (oil bath temperature) for 5 hours. The oil bath is then switched off and the suspension is stirred for a further 15 hours, during which the reaction mixture slowly comes to room temperature. The undissolved inorganic salts are filtered off with suction and the mother liquor is concentrated to dryness in vacuo. The residue is dissolved in methylene chloride and, after washing twice with water, the solution is dried over sodium sulphate, filtered and concentrated. The product obtained is suspended in ether and filtered off with suction. Yield: 55.4 g (96.4% of theory).

reactant | 4-nitrophenol | 0.2 mol, 27.6 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | potassium carbonate | 0.2 mol, 27.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromoacetate | 0.22 mol, 34.9 ml, 50.4 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | Benzyl 2-(4-nitrophenoxy)acetate | [N+](=O)([O-])C1=CC=C(OCC(=O)OCC2=CC=CC=C2)C=C1 | C15H13NO5
